US04639453
[3-Oxo-5-(o-chlorophenyl)-1-cyclohexen-1-yl]-piperazine
A mixture of 24.0 g (0.108 mol) of 1,3-dioxo-5-(o-chlorophenyl)-cyclohexane, 28.4 g (0.33 mol) of anhydrous piperazine and 270 ml of toluene is heated at the boiling point under reflux for 5 hours, using a water separator. The toluene is distilled off, while still warm, in vacuo and the residue is dissolved in chloroform. This solution is extracted three times by shaking with water, to remove the excess piperazine, and dried with sodium sulphate. The concentrated solution is purified by means of column chromatography (corresponding to Example 2). Some of the fractions contain 6.5 g of the base [3-oxo-5-(o-chlorophenyl)-1-cyclohexen-1-yl]-piperazine in pure form, of melting point 159°-160° C., and another portion is still contaminated. The latter is purified by the oxalate: 6.2 g of a white salt of melting point 225°-227° C. (decomposition). After converting back into the base, a further 5.0 g are obtained. Total yield: 11.5 g (=36.7%). RF value: 0.38 (conditions corresponding to Example 1).

reactant | 1,3-dioxo-5-(o-chlorophenyl)-cyclohexane | 0.108 mol, 24.0 g | O=C1CC(CC(C1)C1=C(C=CC=C1)Cl)=O | C12H11ClO2
reactant | piperazine | 0.33 mol, 28.4 g | N1CCNCC1 | C4H10N2
reactant | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | [3-Oxo-5-(o-chlorophenyl)-1-cyclohexen-1-yl]-piperazine | O=C1C=C(CC(C1)C1=C(C=CC=C1)Cl)N1CCNCC1 | C16H19ClN2O
